* Subcircuit 4_bit_dac
.subckt 4_bit_dac net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ 
* d:\8.softwares\esim\fossee\esim\library\subcircuitlibrary\4_bit_dac\4_bit_dac.cir
.include switch.sub
.include 3_bit_dac.sub
x2 net-_u1-pad1_ net-_u1-pad2_ net-_x1-pad4_ net-_u1-pad5_ net-_u1-pad3_ net-_x2-pad6_ 3_bit_dac
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad4_ net-_x1-pad4_ net-_u1-pad3_ net-_x1-pad6_ 3_bit_dac
x3 net-_u1-pad6_ net-_x1-pad6_ net-_x2-pad6_ net-_u1-pad7_ switch
* Control Statements

.ends 4_bit_dac